US09381191B2
150 mg (0.421 mmol) of 2-(chloromethyl)-3-((3-(trifluoromethyl)phenyl)ethynyl)imidazo[1,2-a]pyridine were dissolved in 5 ml of acetonitrile followed by the addition of 96 mg (0.842 mmol) of pyridine-2-thiol and 274 mg (0.842 mmol) of cesium carbonate. The solvent was stirred at r.t. for 2 h 30 min. The mixture was then poured into 40 ml of water, and then extracted 3 times with 15 ml of ethyl acetate. The collected organic phases were washed with 30 ml of a saturated sodium hydrogencarbonate solution, with 30 ml of brine and then were dried on Na2SO4 which was then removed by filtration and the obtained filtrate was concentrated in vacuo. The crude residue was purified by flash chromatography on a silica gel cartridge (eluent: heptane/ethyl acetate gradient, 80% to 70% of heptane, v/v). 129 mg (yield=74%) of 2-((pyridin-2-ylthio)methyl)-3-((3-(trifluoromethyl)phenyl)ethynyl)imidazo-[1,2-a]pyridine were obtained as a beige solid. LC-MS: m/z=410 (MH+) UV purity at 254 nm=99%. 1H NMR (300 MHz, DMSO) δ 8.70 (d, J=6.7 Hz, 1H), 8.52-8.37 (m, 1H), 8.02 (s, 1H), 7.91 (d, J=7.6 Hz, 1H), 7.71 (dd, J=41.7, 4.5 Hz, 4H), 7.43 (s, 2H), 7.13 (d, J=1.1 Hz, 2H), 4.73 (s, 2H).

reactant | 2-(chloromethyl)-3-((3-(trifluoromethyl)phenyl)ethynyl)imidazo[1,2-a]pyridine | 0.421 mmol, 150 mg | ClCC=1N=C2N(C=CC=C2)C1C#CC1=CC(=CC=C1)C(F)(F)F | C17H10ClF3N2
reactant | pyridine-2-thiol | 0.842 mmol, 96 mg | N1=C(C=CC=C1)S | C5H5NS
reactant | cesium carbonate | 0.842 mmol, 274 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | 40 ml | O | H2O
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 2-((pyridin-2-ylthio)methyl)-3-((3-(trifluoromethyl)phenyl)ethynyl)imidazo-[1,2-a]pyridine | 129 mg, yield=74% | N1=C(C=CC=C1)SCC=1N=C2N(C=CC=C2)C1C#CC1=CC(=CC=C1)C(F)(F)F | C22H14F3N3S
